US04622318
To a solution of benzhydryl 7-(2-hydroxybenzylideneamino)-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylate (2.3 g) in ethyl acetate (46 ml) was added concentrated hydrochloric acid (1 ml) at ambient temperature and the mixture was stirred for 30 minutes to give a precipitate of a viscous oil. The upper layer was removed by decantation and the resultant oil was triturated with a mixture of ethanol and diethyl ether to give benzhydryl 7-amino-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylate dihydrochloride (2.2 g).

reactant | benzhydryl 7-(2-hydroxybenzylideneamino)-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylate | 2.3 g | OC1=C(C=NC2[C@@H]3N(C(=C(CS3)CS\C=C/C=3C=NC=CC3)C(=O)OC(C3=CC=CC=C3)C3=CC=CC=C3)C2=O)C=CC=C1 | C35H29N3O4S2
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | ethyl acetate | 46 ml | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7-amino-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylate dihydrochloride | 2.2 g | Cl.Cl.NC1[C@@H]2N(C(=C(CS2)CS\C=C/C=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | InChI=1S/C28H25N3O3S2.2ClH/c29-23-26(32)31-24(22(18-36-27(23)31)17-35-15-13-19-8-7-14-30-16-19)28(33)34-25(20-9-3-1-4-10-20)21-11-5-2-6-12-21;;/h1-16,23,25,27H,17-18,29H2;2*1H/b15-13-;;/t23?,27-;;/m1../s1
